US20010046993A1
H. 1-(1-Piperazinylmethyl)cyclohexanecarbonitrile
A suspension of 1-[(4-benzyl-1-piperazinyl)methyl]cyclohexanecarbonitrile (2.23 g/7.51 mmol) and Pd(OH)2-C (1.1 g) in methanol (40 ml) was stirred under H2 (4 Kg/cm−2) for 6 hours. After filtration through a pad of Celite, the filtrate was concentrated and the resulting residue was purified by column chromatography to give a white solid (1.1 g/71%).

reactant | 1-[(4-benzyl-1-piperazinyl)methyl]cyclohexanecarbonitrile | 7.51 mmol, 2.23 g | C(C1=CC=CC=C1)N1CCN(CC1)CC1(CCCCC1)C#N | C19H27N3
solvent | methanol | 40 ml | CO | CH4O
product | 1-(1-Piperazinylmethyl)cyclohexanecarbonitrile | N1(CCNCC1)CC1(CCCCC1)C#N | C12H21N3
